US08703768B2
Step 3: 2-Cyclobutyl-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 5-bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide (23 mg, 58 μmol) and 5-aminopyrimidine (8 mg, 82 μmol) according to the method described in example A-1, step 2 after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (1 mg, 5%).

reactant | 5-bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | 58 μmol, 23 mg | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1Br)C1CCC1 | C15H17BrN6O2
reactant | 5-aminopyrimidine | 82 μmol, 8 mg | NC=1C=NC=NC1 | C4H5N3
product | 2-Cyclobutyl-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1NC=1C=NC=NC1)C1CCC1 | C19H21N9O2
